US09399639B2
Step 2) (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl propionate
The title compound was prepared according to the procedure as described in Example 14 Step 2 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.3 g, 0.61 mmol) in anhydrous DMF (2.5 mL), KOH (69 mg, 1.23 mmol) and a solution of chloromethyl propionate (75 mg, 0.61 mmol) in anhydrous DMF (0.5 mL). The crude product was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1), and recrystallized in methanol to afford the title compound as a white solid (145 mg, 41.4%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.61 mmol, 0.3 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 1.23 mmol, 69 mg | [OH-].[K+]
reactant | chloromethyl propionate | 0.61 mmol, 75 mg | C(CC)(=O)OCCl | C4H7ClO2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl propionate | 145 mg, 41.4% | C(CC)(=O)OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C27H24ClF2N3O5S
